US07157488B2
3-Formyl-4-methoxy-1H-indole
Add phosphorus oxychloride (1.1 eq.) with vigorous stirring to DMF (cooled in an ice bath). After the addition is complete, allow to stir in the ice bath for ˜10 minutes, then add a solution of 4-methoxy-1H-indole (5 g) in anhydrous DMF with vigorous stirring. Allow to stir at 0° C. After 1 hour, warm to room temperature. After 16 hours, carefully add 4 eq. of 2N NaOH with vigorous stirring. Heat to about 80° C. and then cool. Pour the reaction mixture into cold water with vigorous stirring to give a solid. Collect the solid by filtration and dry in a vacuum oven at room temperature to give the title compound. Acidify the filtrate and extract with EtOAc. Combine the organic layers and wash with 50% brine. Collect the organic layer, dry (MgSO4) filter, and remove the solvent to give the title compound as a light purple solid. Total yield of the title compound is 5.44 g: MS (ES+): m/z 175 (M+H)+, 160 (M-CH3)+; (ES−): m/z 174 (M−H)−.

reactant | phosphorus oxychloride | 1.1 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-methoxy-1H-indole | 5 g | COC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | NaOH | 2N, 4 eq. | [OH-].[Na+]
reactant | water | O | H2O
reactant | DMF | CN(C)C=O | C3H7NO
product | 3-Formyl-4-methoxy-1H-indole | C(=O)C1=CNC2=CC=CC(=C12)OC | C10H9NO2
